data/mechanisms/records/IMS9-EQ9.4a.json
{"mechanism_id": "IMS9-EQ9.4a", "species": [{"species_id": "ocimene_as_drawn_molecular_ion", "mapped_smiles": "[CH2:1]=[CH:2][C:3]([CH3:10])=[CH:4][CH2:5][CH:6][C+:7]([CH3:8])[CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c5h9_allyl_cation", "mapped_smiles": "[CH2:5]=[CH:6][C+:7]([CH3:8])[CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "c5h7_vinyl_radical", "mapped_smiles": "[CH2:1]=[CH:2][C:3]([CH3:10])=[CH:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ocimene_as_drawn_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["c5h9_allyl_cation", "c5h7_vinyl_radical"]}], "steps": [{"step_id": "step_allylic_alpha_cleavage_retarded", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_9_4a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_allylic_alpha_cleavage_retarded", "support_type": "contradicted", "locator": {"page": 230, "equation": "9.4", "figure": null, "panel": "upper scheme, labelled 'allo-Ocimene'; the reaction arrow is crossed out with a large X", "section": "Unsaturated aliphatic hydrocarbons (9 / Mass Spectra of Common Compound Classes)"}, "confidence": 0.85, "curator_note": "CONTRADICTED CHANNEL: the reaction arrow of this panel is struck through with a large X, and the text says 'allylic cleavage to produce the C5H9+ ion in allo-ocimene is retarded because the cleaved bond is also vinylic'. Book draws 2 arc(s); moves <1,3> are drawn, move <2> is an implicit hook required for electron balance (not drawn on the page): (i) the RIGHT fishhook has its tail under the C(6)=C(7) double bond - the ionized bond, the one the bracket '+.' refers to - and its barb pointing up at the C(5)-C(6) bond = move 1 (odd electron into the forming pi bond); (ii) the LEFT fishhook has its tail on the cleaving C(4)-C(5) bond and its barb pointing left into the C(3)=C(4) region of the departing fragment = move 3 (the homolysis hook). NOT drawn: move 2, the second electron of the cleaving C(4)-C(5) bond entering the forming C(5)=C(6) pi bond. BARB PLACEMENT, stated honestly: the barb of arc (ii) lands on the C(3)=C(4) DOUBLE bond, roughly a third of the way from C(3) to C(4), not on C(4) itself; taken literally that would make a three-electron pi bond, so this record deposits that electron on C(4), the atom the sigma bond breaks from. In this panel C(4) is sp2, so the C5H7. product is a vinyl radical with no allylic delocalization available - precisely the book's reason for crossing the arrow out. STRUCTURE AS DRAWN: the skeleton under the label 'allo-Ocimene' is CH2=CH-C(CH3)=CH-CH2-CH=C(CH3)2 (3,7-dimethylocta-1,3,6-triene, i.e. beta-ocimene): double bonds C(1)=C(2), C(3)=C(4) and C(6)=C(7), a methyl C(10) on C(3), an sp3 CH2 at C(5), two methyls C(8)/C(9) on C(7). allo-Ocimene proper is 2,6-dimethylocta-2,4,6-triene, which is fully conjugated, has no sp3 CH2 and could not give C5H7. + C5H9+ by one cleavage; this record encodes the structure the arrows are actually drawn on and flags the naming discrepancy rather than silently 'correcting' either. LOCALIZATION (convention B): the page draws the intact molecule inside a bracket with '+.' outside it, so this record localizes the ionized C(6)=C(7) pi bond as an odd electron on C(6) (where arc (i) starts) and the positive charge on C(7), which is the tertiary-cation end of the drawn product. RESONANCE (convention C): the book prints the product ion as a delocalized allyl cation - an arc spanning C(5)-C(6)-C(7) with a '+' underneath and no localized double bond; the form written here, CH2=CH-C(+)(CH3)2, is the one the drawn arrows produce, its partner being (+)CH2-CH=C(CH3)2. MEASUREMENTS (convention F): the page prints NO m/z and NO intensity - the products are labelled only 'C5H7.' and a structure carrying '+' - so both products are detected=false, no relative_intensity is recorded, and 69.0699 is the curator-computed monoisotopic m/z of C5H9+; the peak status is 'rejected' because the book crosses this channel out."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 136.1247, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c5h9_69_rejected", "species_id": "c5h9_allyl_cation", "step_id": "step_allylic_alpha_cleavage_retarded", "observed_mz": 69.0699, "hydrogen_shift": 0, "isotope_offset": 0, "status": "rejected", "confidence": 0.3}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
